US07365095B2
Treatment of 2,2′-dichloro-6-methoxybiphenyl (5.0 g, 20.9 mmol) with hydrogen bromide (33% in acetic acid, 60 mL) according to the procedure described for Example 69, Step 2 provided 4.2 g (89%) of 2′,6-dichlorobiphenyl-2-ol as a colorless oil.

reactant | 2,2′-dichloro-6-methoxybiphenyl | 20.9 mmol, 5.0 g | ClC1=C(C(=CC=C1)OC)C1=C(C=CC=C1)Cl | C13H10Cl2O
solvent | hydrogen bromide | 60 mL | Br | BrH
product | 2′,6-dichlorobiphenyl-2-ol | 4.2 g, 89% | ClC1=C(C=CC=C1)C=1C(=CC=CC1Cl)O | C12H8Cl2O
